US06271225B1
In the same manner as in Example 1 and using ethyl 2-(2-aminoanilino)-6-methylbenzo[b]thiophene-3-carboxylate (3.7 g), 1-methylpiperazine (80 ml), anisole (16 ml) and titanium tetrachloride (3 ml), 3-methyl-12-(4-methylpiperazin-1-yl)-6H-[1]benzothieno[2,3-b][1,5]benzodiazepine (1.4 g) was obtained.

reactant | ethyl 2-(2-aminoanilino)-6-methylbenzo[b]thiophene-3-carboxylate | 3.7 g | NC1=C(NC2=C(C3=C(S2)C=C(C=C3)C)C(=O)OCC)C=CC=C1 | C18H18N2O2S
reactant | anisole | 16 ml | C1(=CC=CC=C1)OC | C7H8O
catalyst | titanium tetrachloride | 3 ml | [Ti](Cl)(Cl)(Cl)Cl
solvent | 1-methylpiperazine | 80 ml | CN1CCNCC1 | C5H12N2
product | 3-methyl-12-(4-methylpiperazin-1-yl)-6H-[1]benzothieno[2,3-b][1,5]benzodiazepine | 1.4 g | CC1=CC2=C(C=C1)C1=C(NC3=C(N=C1N1CCN(CC1)C)C=CC=C3)S2 | C21H22N4S
